US08471005B2
Into an 8-dram vial, 5-{2-[4-(4-Methyl-piperazin-1-yl)-phenylamino]-pyrrolo[2,1-f][1,2,4]triazin-7-yl}-furan-2-carbaldehyde (97.57 mg, 0.2424 mmol), 2-Methanesulfonyl-ethylamine; hydrochloride (0.2322 g, 1.454 mmol), 1,2-Dichloroethane (15.0 mL), and Acetic acid (100.0 uL, 1.759 mmol) were added and heated at 45° C. overnight. Sodium triacetoxyborohydride (0.1541 g, 0.7273 mmol) was added. The reaction mixture was stirred at room temperature for 3 hours. The reaction was partitioned with saturated NaHCO3 and DCM. The organic was separated, washed with Brine and dried over Na2SO4. The solid was filtered and washed with DCM. The solvent was removed under vacuum. The reaction mixture was purified via ISCO column chromatography with DCM and methanol as eluant (5 to 25% methanol). The collected fractions afforded (7-{5-[(2-Methanesulfonyl-ethylamino)-methyl]-furan-2-yl}-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-[4-(4-methyl-piperazin-1-yl)-phenyl]-amine as a yellow solid (45 mg, 36%). LCMS (E/I+) 510.08 (M+H). NMR 1H (DMSO-d6)-9.23 (s, 1H), 8.91 (s, 1H), 7.63 (d, 2H, J=8.69 Hz), 7.19 (d, 1H, J=3.02 Hz), 7.00 (d, 1H, J=4.57 Hz), 6.97 (d, 2H, J=9.42 Hz), 6.90 (d, 1H, J=5.03) Hz, 6.53 (d, 1H, J=3.66 Hz), 3.81 (s, 2H Hz) 3.25 (t, 2H, J=6.40 Hz), 3.10 (t, 4H, J=5.03 Hz), 3.02 (s, 3H), 2.97 (t, 2H, J=6.40 Hz), 2.49 (t, 4H, J=5.03), 2.23 (s, 3H).

reactant | 5-{2-[4-(4-Methyl-piperazin-1-yl)-phenylamino]-pyrrolo[2,1-f][1,2,4]triazin-7-yl}-furan-2-carbaldehyde | 0.2424 mmol, 97.57 mg | CN1CCN(CC1)C1=CC=C(C=C1)NC1=NN2C(C=N1)=CC=C2C2=CC=C(O2)C=O | C22H22N6O2
reactant | 2-Methanesulfonyl-ethylamine | CS(=O)(=O)CCN | C3H9NO2S
reactant | hydrochloride | 1.454 mmol, 0.2322 g | Cl | ClH
reactant | Acetic acid | 1.759 mmol, 100.0 uL | C(C)(=O)O | C2H4O2
reactant | Sodium triacetoxyborohydride | 0.7273 mmol, 0.1541 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-Dichloroethane | 15.0 mL | ClCCCl | C2H4Cl2
product | (7-{5-[(2-Methanesulfonyl-ethylamino)-methyl]-furan-2-yl}-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-[4-(4-methyl-piperazin-1-yl)-phenyl]-amine | 45 mg, 36% | CS(=O)(=O)CCNCC1=CC=C(O1)C1=CC=C2C=NC(=NN21)NC2=CC=C(C=C2)N2CCN(CC2)C | C25H31N7O3S
